US04766133
A solution of 14 g of 2,3,4-trimethylpyridine in 140 ml of methylene chloride is treated cautiously while cooling with ice with 21 g of m-chloroperbenzoic acid. The reaction mixture is boiled at reflux for 1 hour, then made basic with a saturated soda solution and subsequently extracted. The organic phase is dried and concentrated. The residue is purified on a silica gel column, the medium pressure flash chromatography method (solvent: methylene chloride/methanol [5:1 ) being used and the pressure being produced with nitrogen gas. The 2,3,4-trimethylpyridine N-oxide obtained is processed directly.

reactant | 2,3,4-trimethylpyridine | 14 g | CC1=NC=CC(=C1C)C | C8H11N
reactant | m-chloroperbenzoic acid | 21 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 140 ml | C(Cl)Cl | CH2Cl2
product | 2,3,4-trimethylpyridine N-oxide | CC1=[N+](C=CC(=C1C)C)[O-] | C8H11NO
